US05399578
cis-N-(2-Carboxycyclohexyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine
649 mg of ethyl rac-cis-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-2-aminocyclohexane-1-carboxylate are heated at 80° for 18 hours together with 10 ml of ethanol and 2 ml of 2N NaOH. The mixture is neutralized with 2 ml of 2N HCl and evaporated. The crude product is purified on silica gel 60 (40-63 μm) using CH2Cl2 -MeOH (95:5), Rf =0.30 (system N8). MS (FAB): m/e 462 (M+ +H), 484 (M+ +Na).

reactant | ethyl rac-cis-N-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-N-valeryl-2-aminocyclohexane-1-carboxylate | 649 mg | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CN([C@@H]1[C@@H](CCCC1)C(=O)OCC)C(CCCC)=O | C28H35N5O3
reactant | NaOH | 2N, 2 ml | [OH-].[Na+]
reactant | HCl | 2N, 2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | cis-N-(2-Carboxycyclohexyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(=O)(O)[C@@H]1[C@@H](CCCC1)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O | C26H31N5O3
